US05780482
A mixture of ethyl 4-hydroxy-6-methoxy-1,5-naphthyridine-3-carboxylate (2.48 g) and phosphorus oxychloride (25 ml) was stirred and heated at 50°-55° C. for 30 minutes. The mixture was worked up as described in Example B1 to give ethyl 4-chloro-6-methoxy-1,5-naphthyridine-3-carboxylate, m.p. 98°-100° C.

reactant | ethyl 4-hydroxy-6-methoxy-1,5-naphthyridine-3-carboxylate | 2.48 g | OC1=C(C=NC2=CC=C(N=C12)OC)C(=O)OCC | C12H12N2O4
reactant | phosphorus oxychloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 4-chloro-6-methoxy-1,5-naphthyridine-3-carboxylate | ClC1=C(C=NC2=CC=C(N=C12)OC)C(=O)OCC | C12H11ClN2O3
